US07897621B2
Preparation of 5-(3-chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinamide
The title compound was synthesized in analogy to Example 1d, using 5-bromo-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinamide and 3-chlorophenylboronic acid as starting materials, MS (ISP) 531.0, 497.1 (M)+.

reactant | 5-bromo-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinamide | BrC=1C(=NC(=C(C(=O)NCC(C)(O)C2CC2)C1)C(F)(F)F)OCC(F)(F)F | C15H15BrF6N2O3
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 5-(3-chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinamide | ClC=1C=C(C=CC1)C=1C(=NC(=C(C(=O)NCC(C)(O)C2CC2)C1)C(F)(F)F)OCC(F)(F)F | C21H19ClF6N2O3
